US06040303
6.6 g triethylamine were added to 10.0 g N-(tert.butoxycarbonyl)glycine in 100 ml dichloromethane. Then 6.2 g ethyl chloroformate in 20 ml dichloromethane were added dropwise at 0° C.; the mixture was stirred for 15 minutes at 0° C., and then a solution of 8.1 g 2-methoxybenzylamine in 25 ml dichloromethane was added thereto dropwise. The mixture was stirred for another 3 hours at room temperature before being extracted once with 100 ml of a 10% aqueous tartaric acid solution. The organic phase was dried over magnesium sulfate, filtered and reduced in volume under a vacuum. 13.9 g N-(tert.butoxycarbonyl)-glycine-(2-methoxybenzyl)amine were obtained, having a melting point of 96-97° C.

reactant | triethylamine | 6.6 g | C(C)N(CC)CC | C6H15N
reactant | N-(tert.butoxycarbonyl)glycine | 10.0 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | ethyl chloroformate | 6.2 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-methoxybenzylamine | 8.1 g | COC1=C(CN)C=CC=C1 | C8H11NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-(tert.butoxycarbonyl)-glycine (2-methoxybenzyl)amine | 13.9 g | C(C)(C)(C)OC(=O)NCC(=O)O.COC1=C(CN)C=CC=C1 | InChI=1S/C8H11NO.C7H13NO4/c1-10-8-5-3-2-4-7(8)6-9;1-7(2,3)12-6(11)8-4-5(9)10/h2-5H,6,9H2,1H3;4H2,1-3H3,(H,8,11)(H,9,10)
